US09314464B2
Intermediate. (S)-Methyl 1-(4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate
A solution of Intermediate 2-chloro-4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidine (1.4 g, 4.01 mmol), (S)-methyl 1-aminopropan-2-ylcarbamate (0.8 g, 6 mmol) and triethylamine (2.8 ml, 20 mmol) in isopropanol (30 ml) and dioxane (20 mL) was heated in a sealed vessel at 125° C. for 48 hours. The cooled mixture was concentrated under vacuum, and aqueous sodium bicarbonate was added to the residue. The mixture was extracted with ethyl acetate, and the combined extracts were dried over sodium sulfate, filtered, and concentrated. The crude residue was purified by silica gel column chromatography (1:2 hexanes/ethyl acetate eluant) to provide the title compound as a white solid. MS m/z 445.0 (M+1).

reactant | 2-chloro-4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidine | 4.01 mmol, 1.4 g | ClC1=NC=CC(=N1)C=1C(=NN(C1)C(C)C)I | C10H10ClIN4
reactant | (S)-methyl 1-aminopropan-2-ylcarbamate | 6 mmol, 0.8 g | NC[C@H](C)NC(OC)=O | C5H12N2O2
reactant | triethylamine | 20 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (S)-Methyl 1-(4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate | IC1=NN(C=C1C1=NC(=NC=C1)NC[C@H](C)NC(OC)=O)C(C)C | C15H21IN6O2
